US05063197
(iii) Xanthene Type Compounds
Rhodamine B anilinolactam, Rhodamine B p-chloro-anilinolactam, 3-diethylamino-7-dibenzylaminofluoran, 3-diethylamino-7-octylaminofluoran, 3-diethylamino-7-phenylfluoran, 3-diethylamino-7-chlorofluoran, 3-diethylamino-6-chloro-7-methylfluoran, 3-diethylamino-7-(3,4-dichloroanilino)fluoran, 3-diethylamino-7-(2-chloroanilino)fluoran, 3-diethylamino-6-methyl-7-anilinofluoran, 3-(N-ethyl-N-tolyl)amino-6-methyl-7-anilinofluoran, 3-piperidino-6-methyl-7-anilinofluoran, 3-(N-ethyl-N-tolyl)amino-6-methyl-7-phenethylfluoran, 3-diethylamino-7-(4-nitroanilino)fluoran, 3-dibutylamino-6-methyl-7-anilinofluoran, 3-(N-methyl-N-propyl)amino-6-methyl-7-anilinofluoran, 3-(N-ethyl-N-isoamyl)amino-6-methyl-7-anilinofluoran, 3-(N-methyl-N-cyclohexyl)amino-6-methyl-7-anilinofluoran, 3-(N-ethyl-N-tetrahydrofuryl)-amino-6-methyl-7-anilinofluoran, etc.

reactant | 3-diethylamino-7-octylaminofluoran | C(C)N(C(CC)CCCC(C)NF)CC | C12H27FN2
reactant | 3-diethylamino-7-chlorofluoran | CCN(CC)C1=CC2=C(C=C1)C3(C4=CC=CC=C4C(=O)O3)C5=C(O2)C=CC(=C5)Cl | C24H20ClNO3
reactant | 3-piperidino-6-methyl-7-anilinofluoran | CC1=C(C=C2C(=C1)OC3=C(C24C5=CC=CC=C5C(=O)O4)C=CC(=C3)N6CCCCC6)NC7=CC=CC=C7 | C32H28N2O3
product | Xanthene | C1=CC=CC=2OC3=CC=CC=C3CC12 | C13H10O
